US06489327B1
Ethyl 4-[1-(4-ethoxycarbonylmethoxyphenyl)-1-methyl-ethyl]phenoxyacetate (30)
A mixture of 10 g of 4,4′-isopropylidenediphenol, 10.7 ml of ethyl bromoacetate, 15.2 g of potassium carbonate and 1 spatula tip of 18-crown-6 in 180 ml of acetone is heated to boiling under reflux for 4 hours. The solid is then removed by filtering off with suction and the filtrate is concentrated in vacuo and 100 ml of diisopropyl ether are added to the residue. The precipitate is filtered off with suction, washed with a little diisopropyl ether and dried. 15.5 g of the title compound, having a m.p. of 69-71° C., are obtained.

reactant | 4,4′-isopropylidenediphenol | 10 g | C(C)(C)(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O | C15H16O2
reactant | ethyl bromoacetate | 10.7 ml | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 15.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 18-crown-6 | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | acetone | 180 ml | CC(=O)C | C3H6O
product | Ethyl 4-[1-(4-ethoxycarbonylmethoxyphenyl)-1-methyl-ethyl]phenoxyacetate | C(C)OC(=O)COC1=CC=C(C=C1)C(C)(C)C1=CC=C(OCC(=O)OCC)C=C1 | C23H28O6
